US08895596B2
Step C: Ethyl 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate.
To a solution of ethyl 2-({[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate (0.270 g, 0.439 mmol) and Pd(OH)2 (0.080 g, 0.114 mmol) in 3.6 mL of EtOAc and 1.8 mL of EtOH was added 1,4-cyclohexadiene (1.06 mL, 11.3 mmol). The resulting black suspension was microwaved at 130° C. for 2 h, and then filtered through a Celite™ pad, and washed with 100% EtOAc. The resulting filtrate was concentrated. Purification of the resulting crude product by reverse phase Gilson™ HPLC (50-100% AcCN/H2O) afforded the desired product. LCMS: calculated for C26H22F2N2O3 448.46, observed m/e 448.9 (M+H)+ (Rt 2.37/4 min).

reactant | ethyl 2-({[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate | 0.439 mmol, 0.270 g | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OCC2C(C2)C(=O)OCC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C39H32F2N2O3
reactant | 1,4-cyclohexadiene | 11.3 mmol, 1.06 mL | C1=CCC=CC1 | C6H8
solvent | EtOAc | 3.6 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 1.8 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 0.114 mmol, 0.080 g | [OH-].[OH-].[Pd+2]
product | Ethyl 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OCC2C(C2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C26H22F2N2O3
